US07714010B2
b) 5′-Nitro-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one
1′-Pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one (24.8 g) is suspended in acetic acid (250 ml) and nitric acid (fuming, 11.9 ml) is added over a period of 15 min at 15° C. The mixture is stirred for 3 h, diluted with water and extracted with Et2O (3×300 ml). The combined organic layer is washed with water, saturated K2CO3 solution and brine, dried over MgSO4 and evaporated to give the compound (29.3 g).

reactant | 1′-Pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 24.8 g | C(CCCC)N1C(C2(C3=CC=CC=C13)CC2)=O | C15H19NO
reactant | nitric acid | 11.9 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5′-Nitro-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 29.3 g | [N+](=O)([O-])C=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3 | C15H18N2O3
